US04046900
8.7 g of oxalyl chloride are added dropwise to a stirring solution, cooled to about -10° C., of 12.0 g of 5,6-dimethoxy-2-methylindole in 250 ml of ether. After addition is completed, the mixture is stirred for 10 minutes, producing a bright orange precipitate of 5,6-dimethoxy-2-methyl-3-indole glyoxylyl chloride which is immediately used for the next step.

reactant | oxalyl chloride | 8.7 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5,6-dimethoxy-2-methylindole | 12.0 g | COC=1C=C2C=C(NC2=CC1OC)C | C11H13NO2
solvent | ether | 250 ml | CCOCC | C4H10O
product | 5,6-dimethoxy-2-methyl-3-indole glyoxylyl chloride | COC=1C=C2C(=C(NC2=CC1OC)C)C(C(=O)Cl)=O | C13H12ClNO4
